US08017602B2
2,2-Dimethoxyacetaldehyde (7.54 mL) was added to a solution of (R)-3,3-dimethylbutan-2-amine (5.06 g) in methanol (20 mL) and the mixture stirred for 2 h. A slurry of palladium on carbon (10%, 200 mg) in methanol (5 mL) was added and the mixture hydrogenated at 5 bar for 66 h. The mixture was then filtered and concentrated in vacuo to afford (R)- N-(2,2-dimethoxyethyl)-3,3-dimethylbutan-2-amine (8.78 g) as an oil. 1H NMR (400 MHz, CDCl3) δ 4.47 (t, J=5.6 Hz, 1H), 3.38 (s, 3H), 3.37 (s, 3H), 2.86 (dd, J=12.2, 5.5 Hz, 1H), 2.58 (dd, J=12.1, 5.9 Hz, 1H), 2.23 (q, J=6.4 Hz, 1H), 0.97 (d, J=6.4 Hz, 3H), 0.89 (s, 9H)

reactant | 2,2-Dimethoxyacetaldehyde | 7.54 mL | COC(C=O)OC | C4H8O3
reactant | (R)-3,3-dimethylbutan-2-amine | 5.06 g | CC([C@@H](C)N)(C)C | C6H15N
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | (R)- N-(2,2-dimethoxyethyl)-3,3-dimethylbutan-2-amine | 8.78 g | COC(CN[C@H](C)C(C)(C)C)OC | C10H23NO2
